* Schematics Netlist *



V_V2         Vdd 0 5V
V_V1         Vi 0  AC 1
+PULSE 5 0 0 0 0 0.5m 1m
M_M3         Vo Vi 0 0 Nmos2           
M_M4         Vo Vi Vdd Vdd Pmos           
C_C2         0 Vo  1.941n  
